US05258382
Preparation of 2-(4-bromo-2-fluorobenzyl)-1,3-dioxo-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazine-4-carboxylic acid (-)-menthyl ester:
A mixture of 2-(2-trichloroacetylpyrrol-1-yl)malonic acid ethyl (-)-menthyl ester (87.0 g), 4-bromo-2-fluorobenzylamine hydrochloride (53.0 g) and triethylamine (66.4 g, 91.0 ml) in anhydrous dimethylformamide (200 ml) was stirred under the stream of nitrogen at 75° C. for 2 hours. The reaction mixture was concentrated under reduced pressure and the residue was dissolved in ethyl acetate. The solution was washed with 5% cold hydrochloric acid and then with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, and evaporated under reduced pressure. The residue was recrystallized from methanol to give the title compound (74.0 g, 78.7%) as colorless crystals, mp 98°-99° C.

reactant | 2-(2-trichloroacetylpyrrol-1-yl)malonic acid ethyl (-)-menthyl ester | 87.0 g | C1(CC(C(CC1)C(C)C)OC(C(C(=O)OCC)N1C(=CC=C1)C(C(Cl)(Cl)Cl)=O)=O)C | C21H28Cl3NO5
reactant | 4-bromo-2-fluorobenzylamine hydrochloride | 53.0 g | Cl.BrC1=CC(=C(CN)C=C1)F
reactant | triethylamine | 91.0 ml, 66.4 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 2-(4-bromo-2-fluorobenzyl)-1,3-dioxo-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazine-4-carboxylic acid (-)-menthyl ester | 74.0 g, 78.7% | C1(CC(C(CC1)C(C)C)OC(=O)C1C(N(C(C=2N1C=CC2)=O)CC2=C(C=C(C=C2)Br)F)=O)C | C25H28BrFN2O4
